US08859541B2
C3c) 4-chloro-6-(2-phenylethynyl)-5-pyrimidin-5-ylpyridin-2-amine
A mixture of 5-bromo-4-chloro-6-(2-phenylethynyl)pyridin-2-amine C3a (1.0 g, 3.25 mmol), pyrimidin-5-ylboronic acid (604 mg, 4.88 mmol), Tetrakis(triphenylphosphine)palladium(0) (375 mg, 0.33 mmol), sodium carbonate (aqueous solution, 2 mol/l, 4.88 ml, 9.75 mmol) and ACN (15 ml) is stirred in a sealed tube at 120° C. until C3a is almost completely consumed. The mixture is then concentrated in vacuo and the product purified by NP chromatography. Yield: 420 mg (42%). HPLC-MS: M+H=307.

reactant | 5-bromo-4-chloro-6-(2-phenylethynyl)pyridin-2-amine | BrC=1C(=CC(=NC1C#CC1=CC=CC=C1)N)Cl | C13H8BrClN2
reactant | pyrimidin-5-ylboronic acid | 4.88 mmol, 604 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 9.75 mmol, 2 mol/l, 4.88 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.33 mmol, 375 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ACN | 15 ml | C(C)#N | C2H3N
product | 4-chloro-6-(2-phenylethynyl)-5-pyrimidin-5-ylpyridin-2-amine | ClC1=CC(=NC(=C1C=1C=NC=NC1)C#CC1=CC=CC=C1)N | C17H11ClN4
